US07741341B2
1.33 g (7.30 mmol) 3-(2-Methoxy-ethoxy)-benzene-1,2-diamine were dissolved in 35 mL acetic acid. 1.25 mL (10.22 mmol) 2,2,2-trichloro-acetimidic acid methyl ester were added and the resulting mixture was stirred for 2 h at room temperature. The mixture was concentrated under reduced pressure and the residue was co-distilled twice with 20 mL toluene to give crude 4-(2-Methoxy-ethoxy)-2-trichloromethyl-1H-benzoimidazole as a brown solid.

reactant | 3-(2-Methoxy-ethoxy)-benzene-1,2-diamine | 7.30 mmol, 1.33 g | COCCOC1=C(C(=CC=C1)N)N | C9H14N2O2
reactant | 2,2,2-trichloro-acetimidic acid methyl ester | 10.22 mmol, 1.25 mL | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | 4-(2-Methoxy-ethoxy)-2-trichloromethyl-1H-benzoimidazole | COCCOC1=CC=CC=2NC(=NC21)C(Cl)(Cl)Cl | C11H11Cl3N2O2
